US07384939B2
A mixture of crude 5-cyano-4-(2-methylphenyl)-2-(4-methylpiperazinyl) pyridine (16.85 g, 57.6 mmol), 18 mL of toluene, and 27 mL (49.7 g, 507 mmol) of concentrated sulfuric acid was heated at 70° C. for 12 hours. The mixture was cooled and quenched with 200 mL of cold H2O. Ethyl acetate was added followed by a solution of 45.6 g (1.14 mol) of sodium hydroxide in 200 mL of H2O. Water (200 mL) was added and the layers were separated. The aqueous layer was extracted several times with 100 mL of ethyl. The organic layers were combined and concentrated to afford 17.55 g (98.1%) of 4-(2-methylphenyl)-6-(4-methylpiperazinyl)-3-pyridinecarboxamide as a colorless solid.

reactant | 5-cyano-4-(2-methylphenyl)-2-(4-methylpiperazinyl) pyridine | 57.6 mmol, 16.85 g | C(#N)C=1C(=CC(=NC1)N1CCN(CC1)C)C1=C(C=CC=C1)C | C18H20N4
reactant | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 507 mmol, 27 mL, 49.7 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1.14 mol, 45.6 g | [OH-].[Na+]
solvent | H2O | 200 mL | O | H2O
solvent | Water | 200 mL | O | H2O
product | 4-(2-methylphenyl)-6-(4-methylpiperazinyl)-3-pyridinecarboxamide | 17.55 g, 98.1% | CC1=C(C=CC=C1)C1=C(C=NC(=C1)N1CCN(CC1)C)C(=O)N | C18H22N4O
